US05340931
Into a reaction flask fitted with a stirrer, a thermometer, a nitrogen gas inlet tube and a reflux condenser, was placed 21.259 parts of 1-naphthol, 53.086 parts of deionized water, 6.675 parts of NaOH and 0.120 part of tetrabutylammoniumbromide and to this mixture, 18.859 parts of propargyl bromide was added dropwise and reacted at 80° C. for 6 hours. After completion of the reaction, the content was treated with a mixture of ether and deionized water and the ether layer was separated, added with magnesium sulfate and kept stand overnight. After filtering off magnesium sulfate, the ether solvent was removed by an evaporator and the residue was subjected to a column chromatography (silica gel 200 mesh) to obtain a purified 1propargyloxynaphthalene. Yield 63.6%

reactant | 1-naphthol | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | NaOH | [OH-].[Na+]
reactant | propargyl bromide | C(C#C)Br | C3H3Br
catalyst | tetrabutylammoniumbromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 1propargyloxynaphthalene | Yield 63.6% | C(C#C)OC1=CC=CC2=CC=CC=C12 | C13H10O
